US04208202
(a) 1-(3'-Amino-4',6'-dimethylphenyl)-piperidine
6.2 g of lithium aluminium hydride are introduced into 200 ml of absolute tetrahydrofurane. 26 g (0.12 mol) of 1-(3'-amino-4',6'-dimethylphenyl)-piperidin-2-one are added in portions, with stirring. The mixture is then refluxed for 1 hour. Excess LiAlH4 is destroyed with ethyl acetate. 2 N HCl is added to the mixture until the pH is 4-5, ether is added and the mixture is extraced twice with 2 N KOH solution. The organic phase is washed with water and saturated NaCl solution, dried with MgSO4, clarified with active charcoal and evaporated. The residue is distilled in a bulb tube. This gives 18.2 g (73%) of a yellow oil (boiling point 140°/0.001 mm Hg).

reactant | lithium aluminium hydride | 6.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(3'-amino-4',6'-dimethylphenyl)-piperidin-2-one | 0.12 mol, 26 g | NC=1C=C(C(=CC1C)C)N1C(CCCC1)=O | C13H18N2O
solvent | tetrahydrofurane | 200 ml | O1CCCC1 | C4H8O
product | 1-(3'-Amino-4',6'-dimethylphenyl)-piperidine | NC=1C=C(C(=CC1C)C)N1CCCCC1 | C13H20N2
